US07652041B2
Preparation of N-[4-chloro-3-(trifluoromethyl)phenyl]-3-(4-{[2-(2H-tetrazol-5-yl)pyridin-4-yl]oxy}phenyl)propanamide (A-57)
A solution of N-[4-chloro-3-(trifluoromethyl)phenyl]-3-{4-[(2-cyanopyridin-4-yl)oxy]phenyl}propanamide (0.300 g, 0.67 mmol), aluminum trichloride (1.0 M in hexanes, 2.0 mL, 2.0 mmol), and sodium azide (0.131 g, 2.0 mmol) in DMF was heated at 100° C. for 3 days. The mixture was concentrated and purified by column chromatography to give A-57 which was converted to the bishydrochloride salt (29 mg). 1H NMR (400 MHz, CD3OD; bis HCl salt) δ: 8.66 (d, 1H), 8.03 (d, 1H), 7.93 (d, 1H), 7.66 (dd, 1H), 7.52 (t, 1H), 7.45 (d, 1H), 7.41 (dd, 1H), 7.37 (d, 1H), 7.21-7.24 (m, 1H), 7.12-7.17 (m, 1H), 3.10 (t, 2H), and 2.75 (t, 2H). LCMS, FA: Rt=1.48 min, [MH+ 489.3].

reactant | N-[4-chloro-3-(trifluoromethyl)phenyl]-3-{4-[(2-cyanopyridin-4-yl)oxy]phenyl}propanamide | 0.67 mmol, 0.300 g | ClC1=C(C=C(C=C1)NC(CCC1=CC=C(C=C1)OC1=CC(=NC=C1)C#N)=O)C(F)(F)F | C22H15ClF3N3O2
reactant | aluminum trichloride | 2.0 mmol, 1.0 M, 2.0 mL | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | sodium azide | 2.0 mmol, 0.131 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[4-chloro-3-(trifluoromethyl)phenyl]-3-(4-{[2-(2H-tetrazol-5-yl)pyridin-4-yl]oxy}phenyl)propanamide | ClC1=C(C=C(C=C1)NC(CCC1=CC=C(C=C1)OC1=CC(=NC=C1)C=1N=NNN1)=O)C(F)(F)F | C22H16ClF3N6O2
